US08580794B2
Trans-4-(4-morpholinocyclohexylamino)-3-nitrobenzenesulfonamide
A solution of trans-4-morpholinocyclohexanamine dihydrochloride (5 g, 19.44 mmol), 4-fluoro-3-nitrobenzenesulfonamide (4.32 g, 19.63 mmol) and triethylamine (20 ml, 143 mmol) in tetrahydrofuran (60 ml) was stirred for 16 hours at room temperature. The solid product was filtered off, washed with tetrahydrofuran, ether, dichloromethane (3×) and dried under vacuum.

reactant | trans-4-morpholinocyclohexanamine dihydrochloride | 19.44 mmol, 5 g | Cl.Cl.O1CCN(CC1)[C@@H]1CC[C@H](CC1)N
reactant | 4-fluoro-3-nitrobenzenesulfonamide | 19.63 mmol, 4.32 g | FC1=C(C=C(C=C1)S(=O)(=O)N)[N+](=O)[O-] | C6H5FN2O4S
reactant | triethylamine | 143 mmol, 20 ml | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
product | Trans-4-(4-morpholinocyclohexylamino)-3-nitrobenzenesulfonamide | O1CCN(CC1)[C@@H]1CC[C@H](CC1)NC1=C(C=C(C=C1)S(=O)(=O)N)[N+](=O)[O-] | C16H24N4O5S
